US04743704
Preparation of guaiacol acetylsalsalate
224 g of guaiacol salsalate (1.0 mole) and 102 g of triethylamine are dissolved in 1 liter of methylene chloride. A solution of 197 g of freshly distilled O-acetoxybenzoylchloride (1.0 mole) in 0.5 liters of methylene chloride are added to the solution, which is under agitation at a temperature of 0°-2° C., the addition being made slowly such that the mixture temperature does not exceed 5° C. After about 4 hours at this temperature, 0.5 liters of water are added, agitation is applied energetically, and the phases are allowed to stratify. The lower organic phase is separated and concentrated under reduced pressure, the residue being taken up in 0.6 liters of ethanol. The white crystalline solid which separates is filtered off, washed with cold ethanol, and then crystallised from isobuty-methyl-ketone to obtain 385 g of product with a yield of 95%. The product has a melting point of 131°-132° C.

reactant | guaiacol salsalate | 1.0 mole, 224 g | COC1=CC=CC=C1OC(=O)C2=CC=CC=C2OC(=O)C3=CC=CC=C3O | C21H16O6
reactant | triethylamine | 102 g | C(C)N(CC)CC | C6H15N
reactant | water | 0.5 liters | O | H2O
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 liters | C(Cl)Cl | CH2Cl2
product | guaiacol acetylsalsalate | 385 g, yield of 95% | CC(=O)OC1=CC=CC=C1C(=O)OC2=CC=CC=C2C(=O)OC3=CC=CC=C3OC | C23H18O7
